US05227398
After 4.67 g (11 mmol) of (N-methoxycarbonylmethyl-1,3-benzodioxol-5-ylamino)-N-t-butoxycarbonyl-S-methyl-L-cysteinamide were dissolved in 100 ml of ethyl acetate, an excess of hydrochloric acid was ebulated. A precipitate so formed was collected by filtration, washed with ether and then dried under reduced pressure, whereby 3.3 g of (N-methoxycarbonylmethyl-1,3-benzodioxol-5-ylamino)-S-methyl-L-cysteinamide hydrochloride were obtained (yield: 83%).

reactant | (N-methoxycarbonylmethyl-1,3-benzodioxol-5-ylamino)-N-t-butoxycarbonyl-S-methyl-L-cysteinamide | 11 mmol, 4.67 g | COC(=O)CN(C1=CC2=C(OCO2)C=C1)N[C@@H](CSC)C(=O)NC(=O)OC(C)(C)C | C19H27N3O7S
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (N-methoxycarbonylmethyl-1,3-benzodioxol-5-ylamino)-S-methyl-L-cysteinamide hydrochloride | 3.3 g, yield: 83% | Cl.COC(=O)CN(C1=CC2=C(OCO2)C=C1)N[C@@H](CSC)C(=O)N | InChI=1S/C14H19N3O5S.ClH/c1-20-13(18)6-17(16-10(7-23-2)14(15)19)9-3-4-11-12(5-9)22-8-21-11;/h3-5,10,16H,6-8H2,1-2H3,(H2,15,19);1H/t10-;/m0./s1
